* E:\EDL\LAB3\lab3_b_adding_speedCircuit.asc
RB o1 b1 680
RB2 o2 b2 680
C8 N001 0 47µ
VDC N001 0 10
XX1 b1 b2 N001 0 N002 N003 h_bridge1
XX2 N002 N003 enc Omega dc_motor_model
VCC VCC 0 5
C5 VCC 0 0.1µ
C6 VCC 0 .1µ
C7 VCC 0 47µ
XX3 enc NC_01 sense_pwm VCC speedsensor_circuit_555_oneshot_trigger
XX4 CW speed_ref sense_pwm o1 VCC feedback_circuit
XX5 CCW speed_ref sense_pwm o2 VCC feedback_circuit
R3 speed_ref REF 18k
c12 speed_ref 0 1µ
VCC1 VDC 0 10
C1 VDC 0 0.1µ
C2 VDC 0 .1µ
C3 VDC 0 47µ

* block symbol definitions
.subckt h_bridge1 B1 B2 DCSupply DCgnd DC2 DC1
Q1 DCgnd B1 DC1 0 2N2905A
Q2 DCgnd B2 DC2 0 2N2905A
Q3 DCSupply B1 DC1 0 FZT849
Q4 DCSupply B2 DC2 0 FZT849
C1 DCSupply DCgnd 47µ
.ends h_bridge1

.subckt dc_motor_model +DC -DC enc omega
Aenc N002 0 0 0 0 p 0 0 SCHMITT Vt=0.5 Vh=0.5 td=10n
Bp 0 N002 I=kenc*abs(v(omega))*(V(p)-0.5)
Cenc N002 0 1m
LM +DC N001 65µH
RM N001 emf {RM}
Bemf emf -DC V=k*V(omega)
B§Itorque 0 omega I=k*I(Bemf)
C_Jinertia omega 0 {J}
R_Bfriction omega 0 {1/B}
Benc N003 0 V=5*V(p)
B§I_load_torque_int omega 0 I=sgn(v(omega))*min(Tint,0.1*abs(v(omega)))
R1 enc N003 220
.param kenc=0.49
.param RM=2.02
.param k = 0.9
.param J = 1.03m
.param B = 5.94m
.param Tint = 0.0407
.ends dc_motor_model

.subckt speedsensor_circuit_555_oneshot_trigger ENC pwm_buffered Speed VCC
R1 VCC trig 1k
D1 trig VCC 1N4148
C1 ENC trig 4.7n
XU1 0 trig 555_out VCC N002 N001 N001 VCC NE555
R2 VCC N001 6.3k
C2 N001 0 .1µ
C3 N002 0 0.1µF
R3 pwm_buffered Speed 200k
C4 Speed 0 .1µ
R4 0 N003 33k
R5 N003 VCC 33k
XU2 555_out N003 VCC 0 pwm_buffered level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.ends speedsensor_circuit_555_oneshot_trigger

.subckt feedback_circuit C Ref Sense B Vcc
XU1 Ref N001 VDC 0 B level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N001 Sense 18k
C1 B N001 1µ
M1 N001 C Vcc Vcc HAT1072H
R2 C 0 22k
.ends feedback_circuit

.model D D
.lib C:\Users\kwat1\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\kwat1\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\kwat1\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.05 0 startup
.lib NE555.sub
.lib UniversalOpamps2.sub
.backanno
.end
